US05136868
To a stirred mixture of 0.24 g (0.005 mole) of sodium hydride (60% oil suspension) in 45 mL of N,N-dimethylformamide was added 1.3 g (0.005 mole) of 1,4-dihydro-1-(2,4,5-trichlorophenyl)-5H-tetrazol-5-one. The mixture was stirred at room temperature for 15 minutes, then 0.85 g (0.005 mole) of 1-iodopropane and several drops of 1,4,7,10,13,16-hexaoxacyclooctadecane (18-crown-6) were added. After complete addition, the reaction mixture was stirred at room temperature for 4 days. The reaction mixture was poured into ice water and the resulting mixture extracted with diethyl ether. The ether extract was dried over anhydrous magnesium sulfate, filtered, and the filtrate evaporated under reduced pressure to leave a solid. The solid was purified by column chromatography on silica gel, eluting with methylene chloride. Recrystallization from ethanol gave 0.3 g of 1,4-dihydro-4-propyl-1-(2,4,5-trichlorophenyl)-5H-tetrazol-5-one as a solid, mp 89°-90° C.

reactant | sodium hydride | 0.005 mole, 0.24 g | [H-].[Na+]
reactant | 1,4-dihydro-1-(2,4,5-trichlorophenyl)-5H-tetrazol-5-one | 0.005 mole, 1.3 g | ClC1=C(C=C(C(=C1)Cl)Cl)N1N=NNC1=O | C7H3Cl3N4O
reactant | 1-iodopropane | 0.005 mole, 0.85 g | ICCC | C3H7I
solvent | N,N-dimethylformamide | 45 mL | CN(C=O)C | C3H7NO
catalyst | 1,4,7,10,13,16-hexaoxacyclooctadecane | several drops | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
product | 1,4-dihydro-4-propyl-1-(2,4,5-trichlorophenyl)-5H-tetrazol-5-one | 0.3 g | C(CC)N1N=NN(C1=O)C1=C(C=C(C(=C1)Cl)Cl)Cl | C10H9Cl3N4O
